US09382265B2
Preparation of 4-chloro-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)benzamide (compound 17)
Using compound (3S,3aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one (the product of step (e) in Example 1) (60 mg, 0.188 mmol), p-chlorobenzoic acid (35 mg, 0.225 mmol), HATU (107 mg, 0.282 mmol), and TEA (38 mg, 0.376 mmol) as starting materials, preparation following the method as described in Example 11 (g) afforded white solid compound 72 mg, yield: 83.68%.

reactant | (3S,3aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one | NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O | C15H17N3O5
reactant | p-chlorobenzoic acid | 0.225 mmol, 35 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | HATU | 0.282 mmol, 107 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-chloro-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)benzamide | 72 mg, yield: 83.68% | ClC1=CC=C(C(=O)NC[C@@H]2OC(N3C4=C(OC[C@H]32)C=C(C=C4)N4C(COCC4)=O)=O)C=C1 | C22H20ClN3O6
